US07906517B2
2-Bromo-4-sec-butyl-1-methoxy-benzene (1.15 g) is dissolved in tetrahydrofuran (17 ml) and the mixture is cooled to −78° C., and thereto is added dropwise 1.6M n-butyllithium in hexanes, and the mixture is stirred at −78° C. for 15 minutes. To the reaction solution is added trimethyl borate (1.47 g), and the reaction mixture is stirred at −78° C. for 30 minutes, and thereto are added a saturated aqueous ammonium chloride solution and ethyl acetate. The mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure to give crude 5-sec-butyl-1-methoxy-benzene boronic acid (950 mg). NMR (CDCl3): 0.81 (3H, t), 1.22 (3H, d), 1.58 (2H, m), 2.58 (1H, m), 3.90 (3H, s), 6.25 (2H, s), 6.85 (2H, d), 7.25 (1H, d), 7.65 (1H, s).

reactant | 2-Bromo-4-sec-butyl-1-methoxy-benzene | 1.15 g | BrC1=C(C=CC(=C1)C(C)CC)OC | C11H15BrO
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | trimethyl borate | 1.47 g | B(OC)(OC)OC | C3H9BO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 17 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-sec-butyl-1-methoxy-benzene boronic acid | 950 mg | C(C)(CC)C=1C=CCC(C1)(B(O)O)OC | C11H19BO3
